US05348684
4-(Trimethylsilyl)butyl 4-(5-octyloxypyrimidin-2-yl)-phenyl ether
439 mg (3 mmol) of 4-(Trimethylsilyl)butan-1-ol and 901 mg (3 mmol) of 4-(5-n-octyloxypyrimidin-2-yl)phenol are added to the solution of 0.46 ml (3 mmol) of diethyl azodicarboxylate and 790 mg (3 mmol) of triphenylphosphine in 15 ml of dry tetrahydrofuran. After a reaction time of 15 h, the solvent is distilled off and the residue is purified chromatographically (SiO2 /CH2Cl2). After recrystallization from n-hexane, 790 mg of colorless crystals are obtained.

reactant | 4-(Trimethylsilyl)butan-1-ol | 3 mmol, 439 mg | C[Si](CCCCO)(C)C | C7H18OSi
reactant | 4-(5-n-octyloxypyrimidin-2-yl)phenol | 3 mmol, 901 mg | C(CCCCCCC)OC=1C=NC(=NC1)C1=CC=C(C=C1)O | C18H24N2O2
reactant | diethyl azodicarboxylate | 3 mmol, 0.46 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 3 mmol, 790 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 4-(Trimethylsilyl)butyl 4-(5-octyloxypyrimidin-2-yl)-phenyl ether | C(CCCCCCC)OC=1C=NC(=NC1)C1=CC=C(C=C1)OCCCC[Si](C)(C)C | C25H40N2O2Si
